US04468402
2.62 Grams of 6-morpholinocarbonyl-3,4-dihydrocarbostyril and 17.9 g of 3,4-dimethoxybenzylamine were placed in a sealed tube and heated at 170°-200° C. for 5 hours. Then 3,4-dimethoxybenzylamine was removed by distillation under a reduced pressure and the residue thus obtained was treated by means of a silica gel column chromatography, and the objective product was changed to a hydrochloride by adding concentrated hydrochloric acid. Recrystallized from methanol-water to obtain 0.35 g of 6-[4-(3,4-dimethoxybenzyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride. Colorless granular crystals. Melting point: 240°-242° C. (decomposed)

reactant | 6-morpholinocarbonyl-3,4-dihydrocarbostyril | O1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C14H16N2O3
reactant | 3,4-dimethoxybenzylamine | 17.9 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | hydrochloride | Cl | ClH
product | 6-[4-(3,4-dimethoxybenzyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril monohydrochloride | 0.35 g | Cl.COC=1C=C(CN2CCN(CC2)C(=O)C=2C=C3CCC(NC3=CC2)=O)C=CC1OC | InChI=1S/C23H27N3O4.ClH/c1-29-20-7-3-16(13-21(20)30-2)15-25-9-11-26(12-10-25)23(28)18-4-6-19-17(14-18)5-8-22(27)24-19;/h3-4,6-7,13-14H,5,8-12,15H2,1-2H3,(H,24,27);1H
